US03941803
In the manner given in Example 17, 5-(trifluoromethyl)-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone is treated with phthalimide and triphenylphosphine and finally with diethyl azocarboxylate to give 5-(trifluoromethyl)-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone.

reactant | 5-(trifluoromethyl)-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CO)(F)F | C18H13F3N2O2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azocarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(trifluoromethyl)-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C26H16F3N3O3
